US04128647
2,3,8,9-Tetrahydro-5-(4-methoxyphenyl)-9-[(4-methoxyphenyl)methylene]-5H,6H-thiazolo[3,2-a]thiopyrano[4,3-d]pyrimidine
A mixture of tetrahydro-3,5-bis[(4-methoxyphenyl)-methylene-4H-thiopyran-4-one (4.9 g, 14 mmole) and 2-amino-2-thiazoline (1.8 g, 17.6 mmole) in acetone (300 ml) is heated at reflux temperature overnight. The precipitate (4.7 g) collected is a mixture of starting ketone and intermediate aminol (4-[(4,5-dihydro-2-thiazolyl)amino]tetrahydro-3,5-bis[(4-methoxyphenyl)methylene]thiopyran-4-ol) in a ratio of 4:6.

reactant | (4-methoxyphenyl)-methylene-4H-thiopyran-4-one | 14 mmole, 4.9 g | COC1=CC=C(C=C1)C=1S(C=CC(C1)=O)=C | C13H12O2S
reactant | 2-amino-2-thiazoline | 17.6 mmole, 1.8 g | NC=1SCCN1 | C3H6N2S
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 2,3,8,9-Tetrahydro-5-(4-methoxyphenyl)-9-[(4-methoxyphenyl)methylene]-5H,6H-thiazolo[3,2-a]thiopyrano[4,3-d]pyrimidine | COC1=CC=C(C=C1)C1C2=C(N=C3N1CCS3)C(CSC2)=CC2=CC=C(C=C2)OC | C24H24N2O2S2
